US07384934B2
Dissolve 2-amino-5-methyl-thiophene-3-carbonitrile (4.14 g, 30 mmol) and 2,4-dichloronitrobenzene (5.76 g, 30 mmol) in dimethylsulfoxide (70 ml) and stir under nitrogen. Add lithium hydroxide monohydrate (2.0 g, 47.7 mmol) and heat the mixture in an oil bath at room temperature for 18 hours. Pour the mixture into ice water, make acid with 2N HCl, extract into ethyl acetate, dry (MgSO4) and concentrate under reduced pressure. Crystallize from ethanol to give 2-(4-chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile as a yellow solid (2.92 g, 33%): NMR (1H, 300 MHz, CDCl3): δ 9.5 (1H broad), 8.25 (1H,s), 7.45 (1H, d), 7.1 (1H,d), 6.25 (1H, s), 2.5 (3H,s).

reactant | 2-amino-5-methyl-thiophene-3-carbonitrile | 30 mmol, 4.14 g | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | 2,4-dichloronitrobenzene | 30 mmol, 5.76 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | lithium hydroxide monohydrate | 47.7 mmol, 2.0 g | O.[OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | dimethylsulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 2-(4-chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 2.92 g, 33% | ClC1=CC(=C(C=C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H8ClN3O2S
